US04340765
A solution of 1.0 g (E)-4-bromo-1,1-diethoxy-2-methyl-2-butene in 10 ml of sieve dried dimethyl formamide is treated with 0.7 g of p-acetylaminophenol and 0.64 g anhydrous potassium carbonate. The suspension is stirred under nitrogen for four days and the mixture is then poured into 100 ml water and the hazy solution extracted with two 100 ml portions of benzene. The benzene extract is washed with water and dried with sodium sulfate. The benzene extract is concentrated and vacuum dried to give 0.75 g of (E)-4-(4-acetylaminophenoxy)-1,1-diethoxy-2-methyl-2-butene which is dissolved in about 5 to 10 ml acetone and treated with about 1 ml water and a spatula of p-toluenesulfonic acid monohydrate. The resulting solution is agitated occasionally for 30 minutes and the solution is evaporated at room temperature giving a solid, ethylether insoluble residue. The residue is dissolved in about 150 ml methylene chloride and washed twice with water. The residue is dried with sodium sulfate and concentration gave 0.45 g of a solid. The material is filtered in about 50 ml of hot carbon tetrachloride-benzene then boiled down to about 10 ml. The product is filtered and washed with room temperature carbon tetrachloride giving 0.2 g white solid, m.p. 127°-30° C. Elemental Analysis. Calculated for C13H15NO3 : C,66.94; H,6.48; N,6.00. Found: C,66.64; H,6.29; N,5.75.

reactant | (E)-4-bromo-1,1-diethoxy-2-methyl-2-butene | 1.0 g | BrC/C=C(/C(OCC)OCC)\C | C9H17BrO2
reactant | p-acetylaminophenol | 0.7 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | potassium carbonate | 0.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | (E)-4-(4-acetylaminophenoxy)-1,1-diethoxy-2-methyl-2-butene | 0.75 g | C(C)(=O)NC1=CC=C(OC/C=C(/C(OCC)OCC)\C)C=C1 | C17H25NO4
